US04000144
100 ml of 2 N sodium hydroxide solution are added to a solution of 6 g of crude 4-[4-(1-adamantyl)-phenylthio]-butyric acid ethyl ester in 300 ml of ethanol and 100 ml of tetrahydrofurane and the mixture is left to stand for 3 days at about 25° C with exclusion of air. The reaction solution is then evaporated in vacuo to a volume of about 100 ml and partitioned between 3 times 200 ml of methylene chloride and 200 ml of 2 N hydrochloric acid. The organic phases are washed until neutral, dried over sodium sulphate and evaporated in vacuo. Crystallisation of the evaporation residue from benzene/petroleum ether gives 4-[4-(1-adamantyl)-phenylthio]-butyric acid of melting point 136°-138° C.

reactant | sodium hydroxide | 2 N, 100 ml | [OH-].[Na+]
reactant | 4-[4-(1-adamantyl)-phenylthio]-butyric acid ethyl ester | 6 g | C(C)OC(CCCSC1=CC=C(C=C1)C12CC3CC(CC(C1)C3)C2)=O | C22H30O2S
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | 4-[4-(1-adamantyl)-phenylthio]-butyric acid | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(C=C2)SCCCC(=O)O | C20H26O2S
